US06573263B2
Analogously to Example 28A, 10 g (72.4 mmol) of sodium (2E)-4-methoxy-4-oxo-2-buten-2-olate and 0.4 g (2.41 mmol) of potassium iodide are reacted with 14.9 g (72.4 mmol) of (3-bromopropyl)cyclohexane to give methyl 2-acetyl-5-cyclohexylpentanoate.

reactant | sodium (2E)-4-methoxy-4-oxo-2-buten-2-olate | 72.4 mmol, 10 g | COC(/C=C(\C)/[O-])=O.[Na+]
reactant | potassium iodide | 2.41 mmol, 0.4 g | [I-].[K+]
reactant | (3-bromopropyl)cyclohexane | 72.4 mmol, 14.9 g | BrCCCC1CCCCC1 | C9H17Br
product | methyl 2-acetyl-5-cyclohexylpentanoate | C(C)(=O)C(C(=O)OC)CCCC1CCCCC1 | C14H24O3
